US04388317
A mixture of 2-(5-methyl-4-imidazolylmethylthio)ethylamine (1.37 g) and 2-nitroamino-5-(4-dimethylaminomethylbenzyl)-4-pyrimidone (2.27 g) in ethanol (12 ml) was heated under reflux for 24 hr. The ethanol was evaporated at reduced pressure giving 2-[2-(5-methyl-4-imidazolylmethylthio)ethylamino]-5-(4-dimethylaminomethylbenzyl)-4-pyrimidone which was washed by mixing it with water, warming the mixture, allowing it to cool over about 16 hr. and decanting the water. The residue was reacted with ethanolic hydrochloric acid (7 ml) and ethanol removed at reduced pressure. The residue was recrystallised from methanol/ethanol to give the trihydrochloride (2.14 g) as a white solid m.p. 213.5°-216° C.

reactant | 2-(5-methyl-4-imidazolylmethylthio)ethylamine | 1.37 g | CC1=C(N=CN1)CSCCN | C7H13N3S
reactant | 2-nitroamino-5-(4-dimethylaminomethylbenzyl)-4-pyrimidone | 2.27 g | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC1=CC=C(C=C1)CN(C)C | C14H17N5O3
solvent | ethanol | 12 ml | C(C)O | C2H6O
product | 2-[2-(5-methyl-4-imidazolylmethylthio)ethylamino]-5-(4-dimethylaminomethylbenzyl)-4-pyrimidone | CC1=C(N=CN1)CSCCNC1=NC=C(C(N1)=O)CC1=CC=C(C=C1)CN(C)C | C21H28N6OS
